2138-11-04 07:19:00 Physician Resident Progress Note
Chief Complaint:
   None
   24 Hour Events:
   - High res CT: reticular and ground-glass abnormalities have worsened,
   pulmonary arterial hypertension and global cardiomegaly, severe
   coronary atherosclerotic calcification.
   - Hypotensive 80s/50s in the AM, bolused 250cc, normotensive rest of
   day
   - Started on treatment for PCP- [**Name10 (NameIs) 1369**] and prednisone
   - 1 sputum negative for PCP
   [**Name Initial (PRE) **] Glucose in 400s in setting of prednisone and [**Name Initial (PRE) 1369**] being mixed in
   d5. Lantus increased to 40 at bedtime
   - Emailed patient
s surgeon Dr. [**First Name (STitle) 511**] for plan with percutaneous
   tube, Dr. [**First Name (STitle) 511**] will be by to see patient.
   S:
   Patient reports his breathing feels about the same. He denies feeling
   short of breath. Still coughing up white phlegm. No chest pain,
   dizziness, lightheadedness, or other complaints.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2138-11-3**] 11:13 AM
   Piperacillin - [**2138-11-3**] 11:53 PM
   [**Year (4 digits) **] (SMX/TMP) - [**2138-11-4**] 04:12 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-11-3**] 08:05 PM
   Other medications:
   Insulin gtt
   Prednisone 40 mg [**Hospital1 **] (day 2)
   [**Hospital1 **] IV 350 mg Q8H
   Tylenol PRN
   Zosyn 4.5 g IV Q8H (day 2)
   Vanco 1 g IV Q24H (day 2)
   Plavix 75 mg, Senna, Metoprolol (held), Simvastatin 80 mg, SL Nitro
   PRN, Hep SQ TID, Atrovent/Albuterol Nebs, Ursodiol, Pantoprazole, MV,
   ASA 325 mg
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-4**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.7
C (98
   HR: 78 (67 - 86) bpm
   BP: 121/57(73) {83/42(53) - 135/69(83)} mmHg
   RR: 19 (15 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,605 mL
                                                                    573 mL
   PO:
                                                                    700 mL
             TF:
   IVF:
                                                                  1,905 mL
                                                                    573 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                    840 mL
   Urine:
                                                                  1,500 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,105 mL
                                                                   -267 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather, just changed to high-flow mask
   SpO2: 97%
   ABG:None new
   Physical Examination
   General: Awake, alert, NAD, pleasant, no use of accessory muscles
   HEENT: NC/AT. MMM, no scleral icterus or conjunctival pallor
   Neck: Supple, JVP possibly slightly more elevated than yesterday (8cm),
   still overall flat
   Lungs: Dry crackles throughout all lung fields, esp at bases
   Cardiac: Regular, no clear m/g/r
   Abd: Soft, +BS, NT, ND, percutaneous drain in place
   Extr: warm, dry, pink, no c/c/e
   Neuro: A&Ox3, CNs sym, moving all extremities.
   Skin: No rashes
   Labs / Radiology
   326 K/uL
   8.2 g/dL
   301 mg/dL
   1.3 mg/dL
   26 mEq/L
   4.4 mEq/L
   25 mg/dL
   98 mEq/L
   133 mEq/L
   25.0 %
   8.5 K/uL
        [image002.jpg]
                             [**2138-11-3**]  06:03 AM
                             [**2138-11-3**]  06:36 AM
                             [**2138-11-4**]  04:26 AM
   WBC
   13.4
   8.5
   Hct
   29.2
   25.0
   Plt
   434
   326
   Cr
   1.1
   1.3
   TropT
   0.02
   TCO2
   28
   Glucose
   128
   301
   Other labs: PT / PTT / INR:13.4/27.2/1.2, CK / CKMB /
   Troponin-T:34//0.02, ALT / AST:12/34, Alk Phos / T Bili:115/0.6,
   Amylase / Lipase:48/28, Differential-Neuts:95.7 %, Lymph:2.7 %,
   Mono:1.5 %, Eos:0.0 %, Lactic Acid:2.7 mmol/L, Albumin:3.1 g/dL,
   LDH:485 IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Micro:
   [**10-28**], [**10-29**], [**10-31**] x2, [**11-3**] x2 Blood cultures NGTD
   [**10-29**], [**11-1**], [**11-2**] Sputum cultures all contaminated, [**11-2**] sample negative
   for PCP
   [**11-3**] Urine culture pending, NGTD
   Radiology Studies:
   [**11-3**] High resolution chest CT:
   1. Recent changes over four days documented by conventional chest
   radiographs
   indicate that at least some of the reticular and ground-glass
   abnormalities in
   the lungs, which have worsened since [**10-29**] are pulmonary edema.
   The
   progression of the same abnormalities between [**10-9**] and [**10-29**] could
   be due to some component of interstitial lung disease, which was
   clearly
   present on the earliest examination.
   2. Persistent pulmonary arterial hypertension and global cardiomegaly.
   Severe
   coronary atherosclerotic calcification. Aortic valvular calcification
   of
   uncertain significance.
   3. Large thyroid cysts or nodules. Ultrasound examination recommended
   if not
   already obtained.
   For subsequent evaluation of the progression of pulmonary edema or
   interstitial lung disease, conventional radiograph should be employed
   as a
   first step.
   Assessment and Plan
   Mr. [**Known lastname **] is a 79 yo M with PMH DM2, interstitial lung disease,
   diastolic CHF, CAD s/p NSTEMI with recent diagnosis of unresectable
   cholangiocarcinoma s/p CBD excision, cholecystectomy, lymph node bx,
   PTC placement and Roux-en-Y hepaticojejunostomy, with no further
   surgical management, transferred to MICU for hypoxia, feeling well but
   remaining hypoxic.
   .
   # Hypoxia
 Patient continued to be on non-rebreather for the better
   part of yesterday. This morning he was transitioned to a high-flow mask
   and is impoved on that. Read of high resolution chest CT yesterday was
   suspicious for pulmonary edema in setting of underlying interstitial
   lung disease, however overall picture is more consistent with an
   atypical infection or PCP in setting of his interstitial lung disease.
   Will not purse further diuresis given he overall appears euvolemic and
   had hypotension after diuresis yesterday.  We are continuing treatment
   for PCP in the setting of his elevated LDH and long-term steroid use
   and CT that could be consistent with this.  Less likely is lymphangitic
   spread of carcinoma.- Patient just completed 7 days of levofloxacin
   (day 1 = [**2138-10-27**])
   - Ordered induced sputum culture for PCP stain as well, given that the
   only negative PCP stain is from a sample that was contaminated.
   Currently patient appears too tenuous to bronch at present.
   - Initiate steroid treatment for PCP yesterday, which will also treat
   his intersitial lung disease, if this is playing role. Plan will be for
   prednisone 40 mg [**Hospital1 **] for 5 days (day 1 = [**11-3**]), 40 mg daily for 5 days,
   then 20 mg for 11 days. Initiated [**Month/Year (2) **] IV (day 1 = [**11-3**]) for PCP
   treatment as well.
   - Initiated vancomycin and zosyn today for hospital acquired PNA (day 1
   = [**11-4**]).
   - Continue with nebulizer tx as needed
   - Continue attempt to wean O2, to keep sat >92%
   - Will hold off PFTs as not likely to be helpful in setting of acute
   decompensation.
   - ICU fellow [**First Name4 (NamePattern1) 955**] [**Last Name (NamePattern1) 90**] discussed case with patient
s outpatient
   pulmonologist, Dr. [**Last Name (STitle) 5568**]. Dr. [**Last Name (STitle) 5568**] reported that the patient had
   presented several years ago and had diffuse changes on CT (ground
   glass, fibrosis). The patient was initially treated with high dose
   steroids, then quickly tapered down to maintance dose (2.5-10 mg per
   reports).  A bronchosocpy was never completed per Dr. [**Last Name (STitle) 5568**]
s report.
   This would likely be helpful for additional work up, but patient
   remains too tenuous to bronch at present.
   .
   # Fever, leukocytosis: Resolved from yesterday, when there had been
   concern for infection in setting of low grade temp and leukocytosis.
   Continuing to monitor for infection (possible sources including urinary
   given foley, lung given hypoxia, and GI given percutaneous drain).
   - Will follow up culture data, antibiotics as noted above should also
   cover gram negative pathogens from GU/GI tract.
   .
   # Hypotension
 Yesterday had transient hypotension (80
s), which was
   asymptomatic. This episode was likely secondary to his diruesis after
   the lasix he received. His borderline low BP remains likely
   multifactorial with differential diagnosis including intravascularly
   depleted vs adrenal insufficiency in setting of long term steroid use
   vs diabetic autonomic dysfunction. Yesterday concern was for possibly
   brewing sepsis, but resolved today. Will consider tolerating if
   mentating, making urine, asymptomatic and MAP >55-60.
   - Goal SBP >100
   - AM cortisol was 24.5 on [**11-2**], on steroids [**Hospital1 **] for above reasons.
   - Holding lisinopril given recent creatinine bump.
   - If possible, once more stable, will consider addition of low dose
   metoprolol given recent NSTEMI if tolerated by bp
   .
   # Cholangio CA, biliary stricture - Curative surgery not possible,
   reconstruction with roux-en-y hepaticojejunostomy performed in [**Month (only) 705**]
   [**2138**].
   - Follow-up as outpatient with oncology
will try to reach patient
   primary oncologist today to further discuss his prognosis to help
   further discuss goals of care and how aggressively to further work up
   and treat his pulmonary process.
   - Dr. [**First Name (STitle) 511**]
s team will see patient today to help guide
   recommendations for drain, appreciate assistance. Tube is in place
   mainly for imaging purposes and will be taken out in future.
   .
   # CAD/NSTEMI - NSTEMI at OSH with troponin peak at 0.76 on [**10-27**],
   trending down since, prior ECG changes with diffuse precordial T wave
   inversion, now improved.
   - Cardiology had been following, recommended medical management (ASA,
   low-dose B-Blocker if BP tolerates, Statin, Plavix, holding ACEi given
   ARF, hypotension)
   .
   # Acute diastolic CHF - Potentially NSTEMI precipitated or infection,
   now likely clinically euvolemic. BNP drawn with AM labs.
   - Will discuss possible trial of diuresis today, however creatinine did
   bump from 1.1 to 1.3 overnight.
   - CXR overall unchanged.
   - Last echo as noted above.
   - Attempting to see if possible to concentrate medications to lessen
   IVF load.
   .
   # ARF- This morning creatinine 1.3, which is a bump from yesterday
   1.1. Previously had bumpted to 1.4, likely secondary to diuresis
   - Will continue to follow trend.
   .
   # Heterogeneous thyroid on CT scan - Consider ultrasound to further
   characterize, once more stable or as outpatient.
   - TSH 0.51 on [**11-1**]
   .
   # Anemia: HCT dipped down today to 25. Over last weeks to month, has
   been 26-29. Iron Studies indicative of Anemia of Chronic Disease given
   advanced ca; no evidence of acute bleeding.
   - Folate, TSH, B-12 all within normal limits.
   - Will check PM HCT to ensure it is stable.
   .
   # DM2: FSBG have been running high since last night (300
s-400
   Suspect secondary to increased steroid dose, also possibly related to
   infection. Glargine was increased last night to 40 units.
   - Given ability to improve control while patient remains in ICU, will
   initiated insulin gtt.
   .
   #. FEN - Cardiac, diabetic diet. Will replete electrolytes as needed.
   .
   #. Communication - Wife, [**Name (NI) 2856**] [**Telephone/Fax (1) 5547**], and son [**Name (NI) 2667**] [**Name (NI) **]
   [**Telephone/Fax (1) 5548**]
   ICU Care
   Nutrition: Diabetic, cardiac
   Glycemic Control:  Insulin gtt.
   Lines:
   PIVs x2
   Prophylaxis:
   DVT:  Heparin SQ
   Stress ulcer:  On PPI for hx GERD as well.
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: Full code currently, patient still thinking over
   options
will try to re-address with wife today, oncologist.
   Disposition: ICU until respiratory status improved.

2138-11-05 07:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2138-11-4**] 06:00 PM
   pulled back 3cm. at [**2075**] by IV nurse.  OK to use.
   - Surgical team evaluated patient: percutaneous drain in place in event
   patient should become obstructed proximally. The tube should remain
   clamped and will be used for imaging purposes and will ultimately be
   removed on an outpatient basis.
   - Patient's oncology team asked to comment on his prognosis and how
   much of this has been discussed with patient and family to help guide
   discussions on goals of how aggressively to work up and manage his
   pulmonary process. They will get back to us in shortly once fellow
   discusses with attending.
   - [**First Name4 (NamePattern1) 955**] [**Last Name (NamePattern1) 90**] spoke with patient's outpatient pulmonologist, Dr. [**Last Name (STitle) 5568**],
   who stated that the patient had been diagnosed with interstitial lung
   disease several years ago after presenting with hypoxia. His initial CT
   scan demonstrated ground glass opacities and fibrosis. He was started
   on a high dose of prednisone with improvement, and then quickly tapered
   down to a maintence dose (between 2.5-5 mg), more for bronchospastic
   disease. He has never had a bronchoscopy.
   - Stopped insulin gtt--appeared per records may not have received
   Lantus the night before, so dose not increased.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2138-11-4**] 09:07 AM
   Piperacillin - [**2138-11-5**] 12:07 AM
   Bactrim (SMX/TMP) - [**2138-11-5**] 04:24 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-11-4**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-5**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.5
C (97.7
   HR: 74 (70 - 88) bpm
   BP: 111/50(65) {85/39(55) - 123/60(75)} mmHg
   RR: 22 (18 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,451 mL
                                                                    803 mL
   PO:
                                                                  1,080 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  2,371 mL
                                                                    683 mL
   Blood products:
   Total out:
                                                                  2,930 mL
                                                                    950 mL
   Urine:
                                                                  2,930 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    521 mL
                                                                   -147 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   361 K/uL
   7.7 g/dL
   76 mg/dL
   1.2 mg/dL
   27 mEq/L
   4.0 mEq/L
   25 mg/dL
   100 mEq/L
   134 mEq/L
   22.5 %
   12.9 K/uL
        [image002.jpg]
                             [**2138-11-3**]  06:03 AM
                             [**2138-11-3**]  06:36 AM
                             [**2138-11-4**]  04:26 AM
                             [**2138-11-4**]  06:30 PM
                             [**2138-11-5**]  03:23 AM
                             [**2138-11-5**]  05:56 AM
   WBC
   13.4
   8.5
   11.3
   12.9
   Hct
   29.2
   25.0
   24.7
   21.9
   22.5
   Plt
   [**Telephone/Fax (3) 5580**]61
   Cr
   1.1
   1.3
   1.2
   TropT
   0.02
   TCO2
   28
   Glucose
   128
   301
   76
   Other labs: PT / PTT / INR:13.4/27.2/1.2, CK / CKMB /
   Troponin-T:34//0.02, ALT / AST:12/34, Alk Phos / T Bili:115/0.6,
   Amylase / Lipase:48/28, Differential-Neuts:95.7 %, Lymph:2.7 %,
   Mono:1.5 %, Eos:0.0 %, Lactic Acid:2.7 mmol/L, Albumin:3.1 g/dL,
   LDH:485 IU/L, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Fluid analysis / Other labs: - Hct baseline high 20s
   Microbiology: [**2138-11-4**] sputum poor sample.
   Assessment and Plan
   Mr. [**Known lastname **] is a 79 yo M with PMH DM2, interstitial lung disease,
   diastolic CHF, CAD s/p NSTEMI with recent diagnosis of unresectable
   cholangiocarcinoma s/p CBD excision, cholecystectomy, lymph node bx,
   PTC placement and Roux-en-Y hepaticojejunostomy, with no further
   surgical management, transferred to MICU for hypoxia, feeling well but
   remaining hypoxic.
   # Hypoxia
 Patient continued to be on non-rebreather for the better
   part of yesterday. This morning he was transitioned to a high-flow mask
   and is impoved on that. Read of high resolution chest CT yesterday was
   suspicious for pulmonary edema in setting of underlying interstitial
   lung disease, however overall picture is more consistent with an
   atypical infection or PCP in setting of his interstitial lung disease.
   Will not purse further diuresis given he overall appears euvolemic and
   had hypotension after diuresis yesterday.  We are continuing treatment
   for PCP in the setting of his elevated LDH and long-term steroid use
   and CT that could be consistent with this.  Less likely is lymphangitic
   spread of carcinoma.- Patient just completed 7 days of levofloxacin
   (day 1 = [**2138-10-27**])
   - Ordered induced sputum culture for PCP stain as well, given that the
   only negative PCP stain is from a sample that was contaminated.
   Currently patient appears too tenuous to bronch at present.
   - Initiate steroid treatment for PCP yesterday, which will also treat
   his intersitial lung disease, if this is playing role. Plan will be for
   prednisone 40 mg [**Hospital1 **] for 5 days (day 1 = [**11-3**]), 40 mg daily for 5 days,
   then 20 mg for 11 days. Initiated Bactrim IV (day 1 = [**11-3**]) for PCP
   treatment as well.
   - Initiated vancomycin and zosyn today for hospital acquired PNA (day 1
   = [**11-4**]).
   - Continue with nebulizer tx as needed
   - Continue attempt to wean O2, to keep sat >92%
   - Will hold off PFTs as not likely to be helpful in setting of acute
   decompensation.
   - ICU fellow [**First Name4 (NamePattern1) 955**] [**Last Name (NamePattern1) 90**] discussed case with patient
s outpatient
   pulmonologist, Dr. [**Last Name (STitle) 5568**]. Dr. [**Last Name (STitle) 5568**] reported that the patient had
   presented several years ago and had diffuse changes on CT (ground
   glass, fibrosis). The patient was initially treated with high dose
   steroids, then quickly tapered down to maintance dose (2.5-10 mg per
   reports).  A bronchosocpy was never completed per Dr. [**Last Name (STitle) 5568**]
s report.
   This would likely be helpful for additional work up, but patient
   remains too tenuous to bronch at present.
   # Fever, leukocytosis: Resolved from yesterday, when there had been
   concern for infection in setting of low grade temp and leukocytosis.
   Continuing to monitor for infection (possible sources including urinary
   given foley, lung given hypoxia, and GI given percutaneous drain).
   - Will follow up culture data, antibiotics as noted above should also
   cover gram negative pathogens from GU/GI tract.
   # Hypotension
 Yesterday had transient hypotension (80
s), which was
   asymptomatic. This episode was likely secondary to his diruesis after
   the lasix he received. His borderline low BP remains likely
   multifactorial with differential diagnosis including intravascularly
   depleted vs adrenal insufficiency in setting of long term steroid use
   vs diabetic autonomic dysfunction. Yesterday concern was for possibly
   brewing sepsis, but resolved today. Will consider tolerating if
   mentating, making urine, asymptomatic and MAP >55-60.
   - Goal SBP >100
   - AM cortisol was 24.5 on [**11-2**], on steroids [**Hospital1 **] for above reasons.
   - Holding lisinopril given recent creatinine bump.
   - If possible, once more stable, will consider addition of low dose
   metoprolol given recent NSTEMI if tolerated by bp
   # Cholangio CA, biliary stricture - Curative surgery not possible,
   reconstruction with roux-en-y hepaticojejunostomy performed in [**Month (only) 705**]
   [**2138**].
   - Follow-up as outpatient with oncology
will try to reach patient
   primary oncologist today to further discuss his prognosis to help
   further discuss goals of care and how aggressively to further work up
   and treat his pulmonary process.
   - Dr. [**First Name (STitle) 511**]
s team will see patient today to help guide
   recommendations for drain, appreciate assistance. Tube is in place
   mainly for imaging purposes and will be taken out in future.
   # CAD/NSTEMI - NSTEMI at OSH with troponin peak at 0.76 on [**10-27**],
   trending down since, prior ECG changes with diffuse precordial T wave
   inversion, now improved.
   - Cardiology had been following, recommended medical management (ASA,
   low-dose B-Blocker if BP tolerates, Statin, Plavix, holding ACEi given
   ARF, hypotension)
   # Acute diastolic CHF - Potentially NSTEMI precipitated or infection,
   now likely clinically euvolemic. BNP drawn with AM labs.
   - Will discuss possible trial of diuresis today, however creatinine did
   bump from 1.1 to 1.3 overnight.
   - CXR overall unchanged.
   - Last echo as noted above.
   - Attempting to see if possible to concentrate medications to lessen
   IVF load.
   # ARF- This morning creatinine 1.3, which is a bump from yesterday
   1.1. Previously had bumpted to 1.4, likely secondary to diuresis
   - Will continue to follow trend.
   # Heterogeneous thyroid on CT scan - Consider ultrasound to further
   characterize, once more stable or as outpatient.
   - TSH 0.51 on [**11-1**]
   # Anemia: HCT dipped down today to 25. Over last weeks to month, has
   been 26-29. Iron Studies indicative of Anemia of Chronic Disease given
   advanced ca; no evidence of acute bleeding.
   - Folate, TSH, B-12 all within normal limits.
   - Will check PM HCT to ensure it is stable.
   # DM2: FSBG have been running high since last night (300
s-400
   Suspect secondary to increased steroid dose, also possibly related to
   infection. Glargine was increased last night to 40 units.
   - Given ability to improve control while patient remains in ICU, will
   initiated insulin gtt.
   #. FEN - Cardiac, diabetic diet. Will replete electrolytes as needed.
   #. Communication - Wife, [**Name (NI) 2856**] [**Telephone/Fax (1) 5547**], and son [**Name (NI) 2667**] [**Name (NI) **]
   [**Telephone/Fax (1) 5548**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-11-3**] 02:48 PM
   PICC Line - [**2138-11-4**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-11-05 13:03:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   79 y/o M w/ILD on prednisone, diastolic CHF, recent NSTEMI,
   unresectable cholangiocarcinoma, admitted with hypoxemic respiratory
   failure
   24 Hour Events:
 PICC LINE - START [**2138-11-4**] 06:00 PM
   pulled back 3cm. at [**2075**] by IV nurse.  OK to use.
   No overnight events.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2138-11-5**] 08:00 AM
   Piperacillin - [**2138-11-5**] 09:00 AM
   Bactrim (SMX/TMP) - [**2138-11-5**] 12:42 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-11-5**] 08:00 AM
   Other medications:
   prednisone 40 [**Hospital1 **], plavix, lopressor, simvastatin, aspirin, ursodiol,
   multivitamin, protonix, senna, albuterol and atrovent nebs
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-5**] 01:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.5
   HR: 78 (70 - 103) bpm
   BP: 92/62(67) {78/39(48) - 123/62(75)} mmHg
   RR: 22 (18 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,451 mL
                                                                  1,653 mL
   PO:
                                                                  1,080 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  2,371 mL
                                                                  1,533 mL
   Blood products:
   Total out:
                                                                  2,930 mL
                                                                  1,310 mL
   Urine:
                                                                  2,930 mL
                                                                  1,310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    521 mL
                                                                    343 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   diffusely)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   361 K/uL
   76 mg/dL
   1.2 mg/dL
   27 mEq/L
   4.0 mEq/L
   25 mg/dL
   100 mEq/L
   134 mEq/L
   22.5 %
   12.9 K/uL
        [image002.jpg]
                             [**2138-11-3**]  06:03 AM
                             [**2138-11-3**]  06:36 AM
                             [**2138-11-4**]  04:26 AM
                             [**2138-11-4**]  06:30 PM
                             [**2138-11-5**]  03:23 AM
                             [**2138-11-5**]  05:56 AM
   WBC
   13.4
   8.5
   11.3
   12.9
   Hct
   29.2
   25.0
   24.7
   21.9
   22.5
   Plt
   [**Telephone/Fax (3) 5580**]61
   Cr
   1.1
   1.3
   1.2
   TropT
   0.02
   TCO2
   28
   Glucose
   128
   301
   76
   Other labs: PT / PTT / INR:13.4/27.2/1.2, CK / CKMB /
   Troponin-T:34//0.02, ALT / AST:12/34, Alk Phos / T Bili:115/0.6,
   Amylase / Lipase:48/28, Differential-Neuts:95.7 %, Lymph:2.7 %,
   Mono:1.5 %, Eos:0.0 %, Lactic Acid:2.7 mmol/L, Albumin:3.1 g/dL,
   LDH:485 IU/L, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR: peripheral interstitial markings unchanged, better
   inspired lung volumes
   Microbiology: No new culture data.
   Assessment and Plan
   79 y/o M w/ILD on prednisone, diastolic CHF, recent NSTEMI,
   unresectable cholangiocarcinoma, admitted with hypoxemic respiratory
   failure.
   1. Respiratory failure:  Likely due to infection (atypical vs PCP)
   versus underlying ILD, although unclear what this underlying ILD is
   (likely IPF).
   - cont to treat broadly with vancomycin, zosyn, and bactrim
   - cont prednisone for PCP & flare of ILD
   - CHF seems unlikely as he doesn't appear volume overloaded and has
   already been diuresed without improvement
   2. Leukocytosis: Worsening since steroids were started, likely related
   to this.
   3. Hypotension:  Resolved.
   4. CHF/CAD:  Cont aspirin, statin and plavix.  On metoprolol.
   5. Elevated creatinine:  Improving.  Baseline 1.0-1.1.
   6. Anemia:  No clinical evidence of bleeding.  Baseline high 20s.
   - transfuse 1 unit PRBCs
   - check hemolysis labs
   - bactrim can cause marrow suppression although WBC & platelets normal
   so unlikely to be this but will follow
   7. DM:  Improved glycemic control with lantus 40 units, sliding scale.
   Restart insulin drip if glucose increases.
   ICU Care
   Nutrition:
   Comments: diabetic diet
   Glycemic Control:  Comments: as per A/P
   Lines:
   20 Gauge - [**2138-11-3**] 02:48 PM
   PICC Line - [**2138-11-4**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2138-11-06 07:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Transfused 1 unit, got 20 IV lasix during with good UOP
   - Started pulse steroids (Solumedrol 250 qid x 3d)
   - Discussion yesterday with patient and daughter, they realize his poor
   prognosis. He would like to remain full code for now, as he feels he is
   not ready to make a decision.
   This morning patient states that he feels his breathing is somewhat
   improved. He continues to occasionally cough up white sputum. No
   hemoptysis, fevers, or chest pain. Last moved his bowels two days ago.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2138-11-5**] 08:00 AM
   Bactrim (SMX/TMP) - [**2138-11-5**] 12:42 PM
   Piperacillin - [**2138-11-6**] 12:04 AM
   Infusions:
   Other ICU medications:
   Insulin - Humalog - [**2138-11-5**] 12:20 PM
   Heparin Sodium (Prophylaxis) - [**2138-11-5**] 03:49 PM
   Furosemide (Lasix) - [**2138-11-5**] 09:00 PM
   Insulin - Regular - [**2138-11-6**] 12:04 AM
   Other medications:
   Vancomycin, Zosyn, Bactrim DS [**Hospital1 **] (day 4)
   Methylprednisolone 250 mg IV TID
   Tylenol PRN
   Plavix 75 mg, Senna, Metoprolol [**Hospital1 **] (being held), SImvastatin 80 mg,
   Heparin SQ TID, Atrovent and albuterol nebs, ursodiol TID,
   pantoprazole, MV, ASA 325mg
   Changes to medical and family history:
   Unchanged.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None new.
   Flowsheet Data as of  [**2138-11-6**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 75 (65 - 103) bpm
   BP: 117/61(74) {78/40(36) - 117/62(76)} mmHg
   RR: 21 (18 - 25) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,442 mL
                                                                    539 mL
   PO:
                                                                    420 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  1,745 mL
                                                                    179 mL
   Blood products:
                                                                    277 mL
   Total out:
                                                                  2,760 mL
                                                                  1,780 mL
   Urine:
                                                                  2,760 mL
                                                                  1,780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -318 mL
                                                                 -1,241 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 92%
   ABG: ///29/
   Physical Examination
   General: Awake, alert, pleasant, [**Location (un) 308**] the morning newspaper, no
   accessory muscle use.
   HEENT: NC/AT. MMM, no scleral icterus or conjunctival pallor
   Neck: Supple, flat JVP
   Lungs: Bilaterally
 crackles, no wheezes
   Cardiac: RRR, S1, S2, no r/g
   Abd: soft, NT, ND, +BS
   Extr: Warm, well perfused, no c/c/e
   Neuro: A&Ox3, CNs sym
   Labs / Radiology
   346 K/uL
   8.3 g/dL
   63 mg/dL
   1.1 mg/dL
   29 mEq/L
   4.4 mEq/L
   28 mg/dL
   99 mEq/L
   134 mEq/L
   24.7 %
   13.1 K/uL
        [image002.jpg]
                             [**2138-11-3**]  06:03 AM
                             [**2138-11-3**]  06:36 AM
                             [**2138-11-4**]  04:26 AM
                             [**2138-11-4**]  06:30 PM
                             [**2138-11-5**]  03:23 AM
                             [**2138-11-5**]  05:56 AM
                             [**2138-11-5**]  03:38 PM
                             [**2138-11-6**]  05:06 AM
   WBC
   13.4
   8.5
   11.3
   12.9
   13.9
   13.1
   Hct
   29.2
   25.0
   24.7
   21.9
   22.5
   23.0
   24.7
   Plt
   [**Telephone/Fax (3) 5601**]
   Cr
   1.1
   1.3
   1.2
   1.1
   TropT
   0.02
   TCO2
   28
   Glucose
   128
   301
   76
   63
   Other labs: PT / PTT / INR:13.3/26.0/1.1, CK / CKMB /
   Troponin-T:34//0.02, ALT / AST:12/34, Alk Phos / T Bili:115/0.2,
   Amylase / Lipase:48/28, Differential-Neuts:95.7 %, Lymph:2.7 %,
   Mono:1.5 %, Eos:0.0 %, Fibrinogen:424 mg/dL, Lactic Acid:2.7 mmol/L,
   Albumin:3.1 g/dL, LDH:379 IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.9
   mg/dL
   Culture data: None new, [**11-4**] sputum contaminated, all blood cultures
   NGTD or final no growth. Urine cx  [**11-3**] NG final.
   Assessment and Plan
   Mr. [**Known lastname **] is a 79 yo M with PMH DM2, interstitial lung disease,
   diastolic CHF, CAD s/p NSTEMI with recent diagnosis of unresectable
   cholangiocarcinoma s/p CBD excision, cholecystectomy, lymph node bx,
   PTC placement and Roux-en-Y hepaticojejunostomy, with no further
   surgical management, transferred to MICU for hypoxia, feeling well but
   remaining hypoxic.
   Hypoxia:  Patient remains on 100% high-flow mask. Subjectively he feels
   his breathing has improved. Prior CT chest suspicious for pulmonary
   edema in setting of ILD, but clinical picture is consistent with an
   atypical infection or PCP. [**Name10 (NameIs) 1204**] lack of improvement to treatment for
   hospital-acquired pneumonia and PCP, [**Name10 (NameIs) 5604**] pulse dose steroids
   yesterday to treat possible exacerbation of his interstitial lung
   disease. Will continue to monitor over next 24 hrs, as would expect
   some improvement in oxygen need if steroids are helping. No evidence of
   fluid overload on exam, continues to be negative balance for I/O
   - Patient s/p 7 days of levofloxacin (day 1 = [**2138-10-27**])
   - PCP negative in sputum x1, but poor sputum samples
   - Continue 3 weeks of empiric PCP [**Name Initial (PRE) **]:
   - On [**11-3**], had [**Month/Year (2) 5604**] prednisone 40 mg [**Hospital1 **] for 5 days (day 1 =
   [**11-3**]), 40 mg daily for 5 days, then 20 mg for 11 days.  Yesterday
   started methylprednisolone 250 mg IV TID for three days.
   - Bactrim IV (day 1 = [**11-3**]), today is day 4, was changed to PO
   yesterday to limit fluid loads.
   - Continue vancomycin and zosyn today for hospital acquired PNA (day 1
   = [**11-3**]).
   - Continue with nebulizer tx as needed
   - Continue attempt to wean O2, to keep sat >92%
   - Transfused 1 unit yesterday for low HCT, followed by lasix.
   - Biospy or bronchoscopy would be helpful to help guide diagnosis and
   management, however patient
s respiratory status is too tenuous
   currently, and bronchoscopy would likely lead to intubation, and
   concern is that patient would not be able to be extubated.
   Anemia: Improved this AM after yesterday
s transfusion. Etiology still
   remains unclear. [**Name2 (NI) 59**] reported bloody stool or emesis. Maybe hemolysis,
   bactrim related marrow [**Last Name (LF) 5587**], [**First Name3 (LF) **] be cancer related.
   - Monitoring stook guaiac,
   - Hemolysis labs have not been consistent with hemolysis
   Leukocytosis: In setting of steroids, stable. Continuing to monitor for
   infection (possible sources including urinary given foley, lung given
   hypoxia, and GI given percutaneous drain).
   - f/u culture data, antibiotics as noted above should also cover gram
   negative pathogens from GU/GI tract.
   Hypotension:  Resolved. Hypotension in past has been in setting of
   diuresis. AM cortisol was 24.5 on [**11-2**], on steroids [**Hospital1 **] for above
   reasons.
   - Holding lisinopril and BB given borderline pressures.
   Cholangio CA, biliary stricture: Curative surgery not possible,
   reconstruction with roux-en-y hepaticojejunostomy performed in [**Month (only) 705**]
   [**2138**].
   - Appreciate oncology input re: prognosis to help further discuss goals
   of care and how aggressively to further work up and treat his pulmonary
   process.
   - Per Dr. [**First Name (STitle) 511**]
s team tube is in place mainly for imaging purposes
   and will be taken out in future. Appreciate input
   CAD/NSTEMI: NSTEMI at OSH with troponin peak at 0.76 on [**10-27**], prior ECG
   changes with diffuse precordial T wave inversion, now improved.
   - Cardiology imput appreciated: recommended medical management (ASA,
   low-dose B-Blocker if BP tolerates, Statin, Plavix, holding ACEi given
   ARF, hypotension)
   Acute diastolic CHF: Potentially NSTEMI precipitated or infection, now
   likely clinically euvolemic. No RV pathology in recent ECHO from last
   week.
   - CXR overall unchanged.
   - Attempting to see if possible to concentrate medications to lessen
   IVF load.
   ARF: Resolved. Creatinine 1.1, from 1.3 yesterday, highest had been 1.4
   in setting of diuresis .
   - Will continue to follow trend.
   Heterogeneous thyroid on CT scan: Consider ultrasound to further
   characterize as outpatient.
   - TSH 0.51 on [**11-1**]
   DM2: FSBG have been running high since transfer up to 300-400. Suspect
   secondary to increased steroid dose, also possibly related to
   infection. FSBG was slightly low yesterday and this AM, so [**Month/Year (2) 3973**] was
   reduced to home dose of 20 units. Elevated insulin needs earlier in
   week may have been due to stress of transfer, possibly infection, but
   with increased steroid dose, this does not seen to be a problem
   currently.
   - [**Name2 (NI) **] and humalog sliding scale.
   FEN: Cardiac, diabetic diet. Will replete electrolytes as needed.
   Communication: Wife, [**Name (NI) 2856**] [**Telephone/Fax (1) 5547**], and son [**Name (NI) 2667**] [**Name (NI) **]
   [**Telephone/Fax (1) 5548**]
   ICU Care
   Nutrition:
   Cardiac and diabetic diet.
   Glycemic Control:  As above
   Lines:
   20 Gauge - [**2138-11-3**] 02:48 PM
   PICC Line - [**2138-11-4**] 06:00 PM
   Prophylaxis:
   DVT: Hep SQ TID
   Stress ulcer:  PPI
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU until respiratory status improved.

2138-11-07 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient stated he wanted to be DNI, however resuscitation desired at
   this time.
   Transiently titrated down to 80% oxygen, but then required 100% again
   this morning.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2138-11-5**] 12:42 PM
   Vancomycin - [**2138-11-6**] 08:29 AM
   Piperacillin - [**2138-11-6**] 04:29 PM
   Piperacillin/Tazobactam (Zosyn) - [**2138-11-7**] 12:07 AM
   Infusions:
   Other ICU medications:
   Insulin - Regular - [**2138-11-6**] 11:59 AM
   Heparin Sodium (Prophylaxis) - [**2138-11-6**] 08:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-7**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.3
C (97.3
   HR: 64 (64 - 80) bpm
   BP: 129/60(77) {96/43(59) - 129/67(79)} mmHg
   RR: 18 (18 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,800 mL
                                                                    227 mL
   PO:
                                                                  1,060 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    740 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                  3,035 mL
                                                                    640 mL
   Urine:
                                                                  3,035 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,235 mL
                                                                   -413 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   329 K/uL
   7.9 g/dL
   241 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.2 mEq/L
   33 mg/dL
   99 mEq/L
   134 mEq/L
   23.6 %
   9.6 K/uL
        [image002.jpg]
                             [**2138-11-3**]  06:03 AM
                             [**2138-11-3**]  06:36 AM
                             [**2138-11-4**]  04:26 AM
                             [**2138-11-4**]  06:30 PM
                             [**2138-11-5**]  03:23 AM
                             [**2138-11-5**]  05:56 AM
                             [**2138-11-5**]  03:38 PM
                             [**2138-11-6**]  05:06 AM
                             [**2138-11-7**]  04:00 AM
   WBC
   13.4
   8.5
   11.3
   12.9
   13.9
   13.1
   9.6
   Hct
   29.2
   25.0
   24.7
   21.9
   22.5
   23.0
   24.7
   23.6
   Plt
   [**Telephone/Fax (2) 5601**]
   329
   Cr
   1.1
   1.3
   1.2
   1.1
   1.1
   TropT
   0.02
   TCO2
   28
   Glucose
   128
   301
   76
   63
   241
   Other labs: PT / PTT / INR:13.3/26.0/1.1, CK / CKMB /
   Troponin-T:34//0.02, ALT / AST:12/34, Alk Phos / T Bili:115/0.2,
   Amylase / Lipase:48/28, Differential-Neuts:95.7 %, Lymph:2.7 %,
   Mono:1.5 %, Eos:0.0 %, Fibrinogen:424 mg/dL, Lactic Acid:2.7 mmol/L,
   Albumin:3.1 g/dL, LDH:379 IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
   Mr. [**Known lastname **] is a 79 yo M with PMH DM2, interstitial lung disease,
   diastolic CHF, CAD s/p NSTEMI with recent diagnosis of unresectable
   cholangiocarcinoma s/p CBD excision, cholecystectomy, lymph node bx,
   PTC placement and Roux-en-Y hepaticojejunostomy, with no further
   surgical management, transferred to MICU for hypoxia, feeling well but
   remaining hypoxic.
   Hypoxia:  Patient remains on 100% high-flow mask. Subjectively he feels
   his breathing has improved. Prior CT chest suspicious for pulmonary
   edema in setting of ILD, but clinical picture is consistent with an
   atypical infection or PCP. [**Name10 (NameIs) 1204**] lack of improvement to treatment for
   hospital-acquired pneumonia and PCP, [**Name10 (NameIs) 5604**] pulse dose steroids
   yesterday to treat possible exacerbation of his interstitial lung
   disease. Will continue to monitor over next 24 hrs, as would expect
   some improvement in oxygen need if steroids are helping. No evidence of
   fluid overload on exam, continues to be negative balance for I/O
   - Patient s/p 7 days of levofloxacin (day 1 = [**2138-10-27**])
   - PCP negative in sputum x1, but poor sputum samples
   - Continue 3 weeks of empiric PCP [**Name Initial (PRE) **]:
   - On [**11-3**], had [**Month/Year (2) 5604**] prednisone 40 mg [**Hospital1 **] for 5 days (day 1 =
   [**11-3**]), 40 mg daily for 5 days, then 20 mg for 11 days.  Yesterday
   started methylprednisolone 250 mg IV TID for three days.
   - Bactrim IV (day 1 = [**11-3**]), today is day 4, was changed to PO
   yesterday to limit fluid loads.
   - Continue vancomycin and zosyn today for hospital acquired PNA (day 1
   = [**11-3**]).
   - Continue with nebulizer tx as needed
   - Continue attempt to wean O2, to keep sat >92%
   - Transfused 1 unit yesterday for low HCT, followed by lasix.
   - Biospy or bronchoscopy would be helpful to help guide diagnosis and
   management, however patient
s respiratory status is too tenuous
   currently, and bronchoscopy would likely lead to intubation, and
   concern is that patient would not be able to be extubated.
   Anemia: Improved this AM after yesterday
s transfusion. Etiology still
   remains unclear. [**Name2 (NI) 59**] reported bloody stool or emesis. Maybe hemolysis,
   bactrim related marrow [**Last Name (LF) 5587**], [**First Name3 (LF) **] be cancer related.
   - Monitoring stook guaiac,
   - Hemolysis labs have not been consistent with hemolysis
   Leukocytosis: In setting of steroids, stable. Continuing to monitor for
   infection (possible sources including urinary given foley, lung given
   hypoxia, and GI given percutaneous drain).
   - f/u culture data, antibiotics as noted above should also cover gram
   negative pathogens from GU/GI tract.
   Hypotension:  Resolved. Hypotension in past has been in setting of
   diuresis. AM cortisol was 24.5 on [**11-2**], on steroids [**Hospital1 **] for above
   reasons.
   - Holding lisinopril and BB given borderline pressures.
   Cholangio CA, biliary stricture: Curative surgery not possible,
   reconstruction with roux-en-y hepaticojejunostomy performed in [**Month (only) 705**]
   [**2138**].
   - Appreciate oncology input re: prognosis to help further discuss goals
   of care and how aggressively to further work up and treat his pulmonary
   process.
   - Per Dr. [**First Name (STitle) 511**]
s team tube is in place mainly for imaging purposes
   and will be taken out in future. Appreciate input
   CAD/NSTEMI: NSTEMI at OSH with troponin peak at 0.76 on [**10-27**], prior ECG
   changes with diffuse precordial T wave inversion, now improved.
   - Cardiology imput appreciated: recommended medical management (ASA,
   low-dose B-Blocker if BP tolerates, Statin, Plavix, holding ACEi given
   ARF, hypotension)
   Acute diastolic CHF: Potentially NSTEMI precipitated or infection, now
   likely clinically euvolemic. No RV pathology in recent ECHO from last
   week.
   - CXR overall unchanged.
   - Attempting to see if possible to concentrate medications to lessen
   IVF load.
   ARF: Resolved. Creatinine 1.1, from 1.3 yesterday, highest had been 1.4
   in setting of diuresis .
   - Will continue to follow trend.
   Heterogeneous thyroid on CT scan: Consider ultrasound to further
   characterize as outpatient.
   - TSH 0.51 on [**11-1**]
   DM2: FSBG have been running high since transfer up to 300-400. Suspect
   secondary to increased steroid dose, also possibly related to
   infection. FSBG was slightly low yesterday and this AM, so [**Month/Year (2) 3973**] was
   reduced to home dose of 20 units. Elevated insulin needs earlier in
   week may have been due to stress of transfer, possibly infection, but
   with increased steroid dose, this does not seen to be a problem
   currently.
   - [**Name2 (NI) **] and humalog sliding scale.
   FEN: Cardiac, diabetic diet. Will replete electrolytes as needed.
   Communication: Wife, [**Name (NI) 2856**] [**Telephone/Fax (1) 5547**], and son [**Name (NI) 2667**] [**Name (NI) **]
   [**Telephone/Fax (1) 5548**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-11-3**] 02:48 PM
   PICC Line - [**2138-11-4**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-11-08 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Chest x-ray with possible worsening consolidation--possible
   aspiration.
   - Felt very SOB overnight with oxygen saturations in 70's. Improved
   with sitting up, patient declined morphine or other agents to help
   dyspnea.
   - Legionella urinary antigen negative
   Patient reports his breathing feels no different this morning. No chest
   pain, shortness of breath,  hemoptysis, or other complaints. Feels his
   spirits are slightly better today. Family will be in to visit later.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2138-11-5**] 12:42 PM
   Piperacillin - [**2138-11-6**] 04:29 PM
   Vancomycin - [**2138-11-7**] 11:34 PM
   Piperacillin/Tazobactam (Zosyn) - [**2138-11-8**] 12:32 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-11-7**] 08:21 PM
   Other medications:
   Insulin: NPH and regular sliding scale
   Methylprednisolone (completing day 3) QID, Tylenol, [**Last Name (LF) **], [**First Name3 (LF) 369**], Senna,
   Metoprolol 12.5 [**Hospital1 **], Simvastatin 80mg, Hep SQ TID, Atrovent/Albuterol
   nebs, ursodiol, pantoprazole, MV
   Changes to medical and family history:
   None.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None new.
   Flowsheet Data as of  [**2138-11-8**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 75 (62 - 79) bpm
   BP: 123/54(71) {99/48(64) - 138/62(107)} mmHg
   RR: 18 (17 - 29) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,890 mL
                                                                    218 mL
   PO:
                                                                  1,050 mL
             TF:
   IVF:
                                                                    840 mL
                                                                    218 mL
   Blood products:
   Total out:
                                                                  1,360 mL
                                                                    460 mL
   Urine:
                                                                  1,360 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    530 mL
                                                                   -242 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow neb
   SpO2: 90%
   ABG: ///27/
   Physical Examination
   General: awake, alert, no accessory muscle use, in NAD
   Lungs: Dry rales throughout all lung fields. Flat JVP
   Cardiac: RRR, no m/g/r
   Abd: soft, NT, ND, +BS
   Extr: Warm, no c/c/e
   Neuro: A&Ox3
   Labs / Radiology
   375 K/uL
   8.4 g/dL
   184 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.1 mEq/L
   32 mg/dL
   99 mEq/L
   135 mEq/L
   25.1 %
   13.6 K/uL
        [image002.jpg]
                             [**2138-11-3**]  06:03 AM
                             [**2138-11-3**]  06:36 AM
                             [**2138-11-4**]  04:26 AM
                             [**2138-11-4**]  06:30 PM
                             [**2138-11-5**]  03:23 AM
                             [**2138-11-5**]  05:56 AM
                             [**2138-11-5**]  03:38 PM
                             [**2138-11-6**]  05:06 AM
                             [**2138-11-7**]  04:00 AM
                             [**2138-11-8**]  04:28 AM
   WBC
   13.4
   8.5
   11.3
   12.9
   13.9
   13.1
   9.6
   13.6
   Hct
   29.2
   25.0
   24.7
   21.9
   22.5
   23.0
   24.7
   23.6
   25.1
   Plt
   [**Telephone/Fax (3) 5601**]
   329
   375
   Cr
   1.1
   1.3
   1.2
   1.1
   1.1
   1.1
   TropT
   0.02
   TCO2
   28
   Glucose
   128
   301
   76
   63
   241
   184
   Other labs: PT / PTT / INR:13.3/26.0/1.1, CK / CKMB /
   Troponin-T:34//0.02, ALT / AST:12/34, Alk Phos / T Bili:115/0.2,
   Amylase / Lipase:48/28, Differential-Neuts:95.7 %, Lymph:2.7 %,
   Mono:1.5 %, Eos:0.0 %, Fibrinogen:424 mg/dL, Lactic Acid:2.7 mmol/L,
   Albumin:3.1 g/dL, LDH:379 IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.0
   mg/dL
   [**11-6**] Urine legionella antigen negative
   Otherwise no new culture data.
   Assessment and Plan
   Mr. [**Known lastname **] is a 79 yo M with PMH DM2, interstitial lung disease,
   diastolic CHF, CAD s/p NSTEMI with recent diagnosis of unresectable
   cholangiocarcinoma s/p CBD excision, cholecystectomy, lymph node bx,
   PTC placement and Roux-en-Y hepaticojejunostomy, with no further
   surgical management, transferred to MICU for hypoxia, with persistent
   and slightly worsening hypoxia.
   Hypoxia No significant change. The pulse dose steroids have no
   appreciably changed his oxygen requirement or breathing. Overall
   picture still most consistent with exacerbation of his pulmonary
   fibrosis, less likely atypical infection or CHF.
   - Patient s/p 7 days of levofloxacin (day 1 = [**2138-10-27**])
   - PCP negative in sputum x1, but poor sputum samples
   - Continue 3 weeks of empiric PCP [**Name Initial (PRE) **]:
   - On [**11-3**], had initiated prednisone 40 mg [**Hospital1 **] for 5 days (day 1 =
   [**11-3**]), 40 mg daily for 5 days, then 20 mg for 11 days.  Currently
   completing tail end of day 3 of 3 for methylprednisolone 250 mg IV QID.
   Will remain on high dose steroids for at least one more day (today is
   day 6 total of steroids), then transition to 60 mg PO prednisone
   tomorrow.
   - Bactrim IV (day 1 = [**11-3**]), today is day 6, was changed to to limit
   fluid loads.
   - Continue vancomycin and zosyn for hospital acquired PNA (day 1 =
   [**11-3**]), to complete a seven day course (day 6 today).
   - Continue with nebulizer tx as needed
   - Continue attempt to wean O2, to keep sat >90%
   - Too tenuous to bronch at present.
   - If patient permits, consider low dose morphine or other [**Doctor Last Name **] if
   worsening dypsnea does not respond to other treatments to make patient
   more comfortable.
   - Do not suspect CHF, but will aim to get patient negative today to
   ensure this is not playing role.
   - Inhaled mucomist for tx of fibrosis, will discuss initiating hep gtt
   as well (check d-dimer to see if this is elevated, as heparin may be
   more beneficial in that case).
   - Discussed aspiration precautions with patient, nursing.
   Anemia: Stable, mildly improved today. received 1 unit PRBCs this week.
   Etiology still remains unclear. [**Name2 (NI) 59**] reported bloody stool or emesis.
   Maybe hemolysis, bactrim related marrow [**Last Name (LF) 5587**], [**First Name3 (LF) **] be cancer
   related.
   - Monitoring stool guaiac (negative thus far)
   - Hemolysis labs have not been consistent with hemolysis
   - Will continue to monitor trend.
   Hypotension:  Resolved. Hypotension in past has been in setting of
   diuresis. AM cortisol was 24.5 on [**11-2**], on steroids [**Hospital1 **] for above
   reasons.
   - Holding lisinopril and BB given borderline pressures.
   Cholangio CA, biliary stricture:  No changes in management. Curative
   surgery not possible, reconstruction with roux-en-y hepaticojejunostomy
   performed in [**2138-9-12**].
   - Appreciate oncology input re: prognosis to help further discuss goals
   of care and how aggressively to further work up and treat his pulmonary
   process.
   - Per Dr. [**First Name (STitle) 511**]
s team tube is in place mainly for imaging purposes
   and will be taken out in future. Appreciate input
   CAD/NSTEMI: NSTEMI at OSH with troponin peak at 0.76 on [**10-27**], prior ECG
   changes with diffuse precordial T wave inversion, now improved.
   - Cardiology input appreciated: recommended medical management ([**Month/Year (2) 369**],
   low-dose B-Blocker if BP tolerates, Statin, [**Month/Year (2) **], holding ACEi given
   ARF, hypotension)
   Acute diastolic CHF: Potentially NSTEMI precipitated or infection, now
   likely clinically euvolemic. No RV pathology in recent ECHO from last
   week.
   - Goal net negative today given want to try to maximize all potential
   factors.
   Heterogeneous thyroid on CT scan: Consider ultrasound to further
   characterize as outpatient.
   - TSH 0.51 on [**11-1**]
   DM2: Was switched to NPH and regular given lower FSBG. Will continue to
   monitor trend and adjust as needed.
   FEN: Cardiac, diabetic diet. Will replete electrolytes as needed.
   Communication: Wife, [**Name (NI) 2856**] [**Telephone/Fax (1) 5547**], and son [**Name (NI) 2667**] [**Name (NI) **]
   [**Telephone/Fax (1) 5548**]
   ICU Care
   Nutrition:
   Diabetic, cardiac diet
   Glycemic Control:  Insulin regular and NPH
   Lines:
   PICC Line - [**2138-11-4**] 06:00 PM
   Prophylaxis:
   DVT: Heparin SQ TID
   Stress ulcer: PPI
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: DNI, desires resuscitation however
   Disposition: ICU until respiratory status improves

2138-11-08 11:16:00 Physician Attending Progress Note
Chief Complaint: dyspnea improved
   HPI:
   24 Hour Events:
   starting to report dyspnea worse when lying down
   SaO2 to mid 80s on NC and NRB
   CXR on [**11-7**] with ? worsening consolidation/aspiration
   urine legionella ag returned as negative
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2138-11-5**] 12:42 PM
   Piperacillin - [**2138-11-6**] 04:29 PM
   Vancomycin - [**2138-11-8**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2138-11-8**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-11-8**] 08:00 AM
   Other medications:
   asa 325
   mvi
   pantoprazole
   zocor
   metoprolol 12.5 [**Hospital1 **]
   senna [**Hospital1 **]
   Plavix 75
   zosyn 4.5 iv q8
   methylprednisolone
   RISS
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-8**] 11:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 61 (61 - 79) bpm
   BP: 113/60(72) {108/48(64) - 138/62(107)} mmHg
   RR: 19 (17 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,890 mL
                                                                    760 mL
   PO:
                                                                  1,050 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    840 mL
                                                                    560 mL
   Blood products:
   Total out:
                                                                  1,360 mL
                                                                    740 mL
   Urine:
                                                                  1,360 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    530 mL
                                                                     20 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: HFM + 6L NC
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   General: sitting up in bed, nrb on, speakingin full sentences, NAD but
   tired
   HEENT: PERRL, EOMMI
   CV: S1/S2 rrr
   CHEST: crackles L>R
   Abd: soft, nt/nd
   Ext: no c/c/e
   Peripheral Vascular: (Right radial pulse: 1+), (Left radial pulse: 1+),
   (Right DP pulse1+), (Left DP pulse: 1+)
   Skin:  cool and dry
   Neurologic: interactive, a+o x 3
   Labs / Radiology
   8.4 g/dL
   375 K/uL
   184 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.1 mEq/L
   32 mg/dL
   99 mEq/L
   135 mEq/L
   25.1 %
   13.6 K/uL
        [image002.jpg]
                             [**2138-11-3**]  06:03 AM
                             [**2138-11-3**]  06:36 AM
                             [**2138-11-4**]  04:26 AM
                             [**2138-11-4**]  06:30 PM
                             [**2138-11-5**]  03:23 AM
                             [**2138-11-5**]  05:56 AM
                             [**2138-11-5**]  03:38 PM
                             [**2138-11-6**]  05:06 AM
                             [**2138-11-7**]  04:00 AM
                             [**2138-11-8**]  04:28 AM
   WBC
   13.4
   8.5
   11.3
   12.9
   13.9
   13.1
   9.6
   13.6
   Hct
   29.2
   25.0
   24.7
   21.9
   22.5
   23.0
   24.7
   23.6
   25.1
   Plt
   [**Telephone/Fax (3) 5601**]
   329
   375
   Cr
   1.1
   1.3
   1.2
   1.1
   1.1
   1.1
   TropT
   0.02
   TCO2
   28
   Glucose
   128
   301
   76
   63
   241
   184
   Other labs: PT / PTT / INR:13.3/26.0/1.1, CK / CKMB /
   Troponin-T:34//0.02, ALT / AST:12/34, Alk Phos / T Bili:115/0.2,
   Amylase / Lipase:48/28, Differential-Neuts:95.7 %, Lymph:2.7 %,
   Mono:1.5 %, Eos:0.0 %, Fibrinogen:424 mg/dL, Lactic Acid:2.7 mmol/L,
   Albumin:3.1 g/dL, LDH:379 IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.0
   mg/dL
   Microbiology: urine legionella ag negative
   sputum has been poor quality
   urine culture, blood cx ngtd
   Assessment and Plan
   Assessment and Plan
   79 y/o M w/ILD on prednisone, diastolic CHF, recent NSTEMI,
   unresectable cholangiocarcinoma, admitted with hypoxemic respiratory
   failure.
   1. Respiratory failure:  likely ILD poorly characterized concern for
   IPF v NSIP.  hypoxia gradually worsening this week.  S/p 3 day pulse
   solumedrol.
    - will try to run net negative - 500 cc
    - will start inh NAC
    - will continue solumedrol through today then change to po prednisone
    - day [**7-19**] zosyn/vanc
    - day [**7-26**]? bactrim for empiric PCP prophylaxis
    [**Name Initial (PRE) **] cont aspiration precautions: HOB, PPI
    - CXR if respiratory status acutely changes
   2. CHF/CAD:  Cont aspirin, statin and plavix.  On metoprolol.
    - will try gentle diuresis for today
    - ACEi was held for incr creatinine
   3. Elevated creatinine:  At baseline.
   4. Anemia:  No clinical evidence of bleeding.  Responded well to
   transfusion.  will cont monitor
   5. DM:  Switched to NPH as he tended to be low in the mornings.  Will
   follow.
   6. Cholangiocarcinoma:  Unresectable but no evidence of distant
   spread.  Has biliary drain in place for imaging needs in future.
   Currently not an active issue.
   Family updated.
   ICU Care
   Nutrition:
   Comments: aspiration precautions
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2138-11-4**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2138-11-09 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Diuresed with 10mg IV Lasix
   - Started Mucomyst 600 TID for IPF
   - D-dimer sent for IPF (possible treat with heparin if dimer elevated)
   - Episode of acute decompensation with sats in 50-60, cyanotic,
   unresponsive, with increased tone and jerking, lasted 30 secs, resolved
   as sat climbed, no post-ictal confusion, suspect related to acute
   hypoxemia --> EKG with STD in infero-lateral leads, enzymes sent, never
   had chest pain, CXR unchanged --> family arrived to discuss
   prognosis/plan, pt aware this is end-stage, will make comfortable and
   support as needed w/o intubation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2138-11-8**] 08:00 AM
   Vancomycin - [**2138-11-8**] 08:00 AM
   Bactrim (SMX/TMP) - [**2138-11-8**] 08:00 AM
   Piperacillin - [**2138-11-9**] 12:11 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2138-11-8**] 08:55 PM
   Heparin Sodium (Prophylaxis) - [**2138-11-8**] 10:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-9**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.7
   HR: 68 (59 - 89) bpm
   BP: 127/58(75) {111/53(59) - 151/76(91)} mmHg
   RR: 24 (17 - 32) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,765 mL
                                                                    252 mL
   PO:
                                                                    475 mL
                                                                     75 mL
   TF:
   IVF:
                                                                  1,290 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                  2,040 mL
                                                                    665 mL
   Urine:
                                                                  2,040 mL
                                                                    665 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -275 mL
                                                                   -414 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 89%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   316 K/uL
   7.9 g/dL
   123 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.8 mEq/L
   38 mg/dL
   99 mEq/L
   135 mEq/L
   23.1 %
   10.7 K/uL
        [image002.jpg]
                             [**2138-11-4**]  04:26 AM
                             [**2138-11-4**]  06:30 PM
                             [**2138-11-5**]  03:23 AM
                             [**2138-11-5**]  05:56 AM
                             [**2138-11-5**]  03:38 PM
                             [**2138-11-6**]  05:06 AM
                             [**2138-11-7**]  04:00 AM
                             [**2138-11-8**]  04:28 AM
                             [**2138-11-8**]  06:17 PM
                             [**2138-11-9**]  04:30 AM
   WBC
   8.5
   11.3
   12.9
   13.9
   13.1
   9.6
   13.6
   10.7
   Hct
   25.0
   24.7
   21.9
   22.5
   23.0
   24.7
   23.6
   25.1
   23.1
   Plt
   326
   336
   361
   342
   346
   329
   375
   316
   Cr
   1.3
   1.2
   1.1
   1.1
   1.1
   1.0
   TropT
   0.03
   0.01
   Glucose
   [**Telephone/Fax (2) 5670**]
   184
   123
   Other labs: PT / PTT / INR:14.0/24.8/1.2, CK / CKMB /
   Troponin-T:29//0.01, ALT / AST:12/34, Alk Phos / T Bili:115/0.2,
   Amylase / Lipase:48/28, Differential-Neuts:95.7 %, Lymph:1.9 %,
   Mono:2.0 %, Eos:0.1 %, D-dimer:2718 ng/mL, Fibrinogen:424 mg/dL, Lactic
   Acid:2.7 mmol/L, Albumin:3.1 g/dL, LDH:379 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Fluid analysis / Other labs: ddimer 2718
   Microbiology: no new culture data
   Assessment and Plan
   Mr. [**Known lastname **] is a 79 yo M with PMH DM2, interstitial lung disease,
   diastolic CHF, CAD s/p NSTEMI with recent diagnosis of unresectable
   cholangiocarcinoma s/p CBD excision, cholecystectomy, lymph node bx,
   PTC placement and Roux-en-Y hepaticojejunostomy, with no further
   surgical management, transferred to MICU for hypoxia, with persistent
   and slightly worsening hypoxia.
   Hypoxia: No significant change. The pulse dose steroids have no
   appreciably changed his oxygen requirement or breathing. Overall
   picture still most consistent with exacerbation of his pulmonary
   fibrosis, less likely atypical infection or CHF
   - Patient s/p 7 days of levofloxacin (day 1 = [**2138-10-27**])
   - PCP negative in sputum x1, but poor sputum samples
   - Continue 3 weeks of empiric PCP [**Name Initial (PRE) **]:
   - On [**11-3**], had initiated prednisone 40 mg [**Hospital1 **] for 5 days (day 1 =
   [**11-3**]), 40 mg daily for 5 days, then 20 mg for 11 days.  Currently
   completing tail end of day 3 of 3 for methylprednisolone 250 mg IV QID.
   Will remain on high dose steroids for at least one more day (today is
   day 6 total of steroids), then transition to 60 mg PO prednisone
   tomorrow.
   - Bactrim PO (day 1 = [**11-3**]), today is day 6, was changed to PO to limit
   fluid loads.
   - discontinue vancomycin and zosyn for hospital acquired PNA (day 1 =
   [**11-3**]), (day [**8-18**]).
   - Continue with nebulizer tx as needed
   - Continue attempt to wean O2, to keep sat >90%
   - Too tenuous to bronch at present.
   - If patient permits, consider low dose morphine or other [**Doctor Last Name **] if
   worsening dypsnea does not respond to other treatments to make patient
   more comfortable.
   - Do not suspect CHF, but will aim to get patient negative today to
   ensure this is not playing role.
   - Inhaled mucomist for tx of fibrosis, will discuss initiating hep gtt
   as well (check d-dimer to see if this is elevated, as heparin may be
   more beneficial in that case).
   - Discussed aspiration precautions with patient, nursing.
   Anemia: Stable, mildly improved today. received 1 unit PRBCs this week.
   Etiology still remains unclear. [**Name2 (NI) 59**] reported bloody stool or emesis.
   Maybe hemolysis, bactrim related marrow [**Last Name (LF) 5587**], [**First Name3 (LF) **] be cancer
   related.
   - Monitoring stool guaiac (negative thus far)
   - Hemolysis labs have not been consistent with hemolysis
   - Will continue to monitor trend.
   Hypotension:  Resolved. Hypotension in past has been in setting of
   diuresis. AM cortisol was 24.5 on [**11-2**], on steroids [**Hospital1 **] for above
   reasons.
   - Holding lisinopril and BB given borderline pressures.
   Cholangio CA, biliary stricture:  No changes in management. Curative
   surgery not possible, reconstruction with roux-en-y hepaticojejunostomy
   performed in [**2138-9-12**].
   - Appreciate oncology input re: prognosis to help further discuss goals
   of care and how aggressively to further work up and treat his pulmonary
   process.
   - Per Dr. [**First Name (STitle) 511**]
s team tube is in place mainly for imaging purposes
   and will be taken out in future. Appreciate input
   CAD/NSTEMI: NSTEMI at OSH with troponin peak at 0.76 on [**10-27**], prior ECG
   changes with diffuse precordial T wave inversion, now improved.
   - Cardiology input appreciated: recommended medical management (ASA,
   low-dose B-Blocker if BP tolerates, Statin, Plavix, holding ACEi given
   ARF, hypotension)
   Acute diastolic CHF: Potentially NSTEMI precipitated or infection, now
   likely clinically euvolemic. No RV pathology in recent ECHO from last
   week.
   - Goal net negative today given want to try to maximize all potential
   factors.
   Heterogeneous thyroid on CT scan: Consider ultrasound to further
   characterize as outpatient.
   - TSH 0.51 on [**11-1**]
   DM2: Was switched to NPH and regular given lower FSBG. Will continue to
   monitor trend and adjust as needed.
   FEN: Cardiac, diabetic diet. Will replete electrolytes as needed.
   Communication: Wife, [**Name (NI) 2856**] [**Telephone/Fax (1) 5547**], and son [**Name (NI) 2667**] [**Name (NI) **]
   [**Telephone/Fax (1) 5548**]
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2138-11-4**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNI (do not intubate)
   Disposition:

2138-11-09 09:01:00 Physician Attending Progress Note
Chief Complaint: more short of breath this am, reporting some
   discomfort [**3-15**] shortness of breath
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   episode of hypoxemia [**11-9**] assoc with seizure like activity and brief
   unresponsiveness, resolved spontaneously.  Family called to bedside,
   oxygenation did not completely recover to prior baseline and now is on
   nrb
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2138-11-8**] 08:00 AM
   Vancomycin - [**2138-11-8**] 08:00 AM
   Bactrim (SMX/TMP) - [**2138-11-8**] 08:00 AM
   Piperacillin - [**2138-11-9**] 12:11 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2138-11-8**] 08:55 PM
   Heparin Sodium (Prophylaxis) - [**2138-11-8**] 10:18 PM
   Other medications:
   lasix 1- mg o/n
   asa 325 mg qday
   mvi
   pantoprazole
   isordil
   zocor
   metoprolol 12.5 [**Hospital1 **]
   senna
   plavix 75 qday
   zosyn 4.5 q8
   vanc
   bactrim DS 2 tabs PO BID
   RISS
   prednisone 60 mg qday
   mucomyst 600 TID
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-9**] 09:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.9
C (96.7
   HR: 68 (59 - 89) bpm
   BP: 127/58(75) {113/55(59) - 151/76(91)} mmHg
   RR: 24 (17 - 32) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,765 mL
                                                                    256 mL
   PO:
                                                                    475 mL
                                                                     75 mL
   TF:
   IVF:
                                                                  1,290 mL
                                                                    181 mL
   Blood products:
   Total out:
                                                                  2,040 mL
                                                                    665 mL
   Urine:
                                                                  2,040 mL
                                                                    665 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -275 mL
                                                                   -410 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 89%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.9 g/dL
   316 K/uL
   123 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.8 mEq/L
   38 mg/dL
   99 mEq/L
   135 mEq/L
   23.1 %
   10.7 K/uL
        [image002.jpg]
                             [**2138-11-4**]  04:26 AM
                             [**2138-11-4**]  06:30 PM
                             [**2138-11-5**]  03:23 AM
                             [**2138-11-5**]  05:56 AM
                             [**2138-11-5**]  03:38 PM
                             [**2138-11-6**]  05:06 AM
                             [**2138-11-7**]  04:00 AM
                             [**2138-11-8**]  04:28 AM
                             [**2138-11-8**]  06:17 PM
                             [**2138-11-9**]  04:30 AM
   WBC
   8.5
   11.3
   12.9
   13.9
   13.1
   9.6
   13.6
   10.7
   Hct
   25.0
   24.7
   21.9
   22.5
   23.0
   24.7
   23.6
   25.1
   23.1
   Plt
   326
   336
   361
   342
   346
   329
   375
   316
   Cr
   1.3
   1.2
   1.1
   1.1
   1.1
   1.0
   TropT
   0.03
   0.01
   Glucose
   [**Telephone/Fax (2) 5670**]
   184
   123
   Other labs: PT / PTT / INR:14.0/24.8/1.2, CK / CKMB /
   Troponin-T:29//0.01, ALT / AST:12/34, Alk Phos / T Bili:115/0.2,
   Amylase / Lipase:48/28, Differential-Neuts:95.7 %, Lymph:1.9 %,
   Mono:2.0 %, Eos:0.1 %, D-dimer:2718 ng/mL, Fibrinogen:424 mg/dL, Lactic
   Acid:2.7 mmol/L, Albumin:3.1 g/dL, LDH:379 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Fluid analysis / Other labs: ddimer 2718
   Imaging: persistent bilateral patchiness
   persistent elevated R hemidiaphragm
   Assessment and Plan
   Assessment and Plan
   79 y/o M w/ILD on prednisone, diastolic CHF, recent NSTEMI,
   unresectable cholangiocarcinoma, admitted with hypoxemic respiratory
   failure.
   1. Respiratory failure:  likely ILD poorly characterized concern for
   IPF v NSIP.  hypoxia gradually worsening this week.  S/p 3 day pulse
   solumedrol.  Family meeting held last night to discuss poor prognosis.
    - will try to run net negative - 500 cc
    - cont PO NAC
    - will continue solumedrol through today then change to po prednisone
   today 60 mg qday
    - day [**8-18**] zosyn/vanc --> will discontiue this after today
    - day [**9-1**]? bactrim for empiric PCP prophylaxis
    [**Name Initial (PRE) **] cont aspiration precautions: HOB, PPI
    - will try low dose morphine for symptoms of air hunger
   2. CHF/CAD:  Cont aspirin, statin and plavix.  On metoprolol.
    - will try gentle diuresis for today
    - ACEi was held for incr creatinine
   3. Elevated creatinine:  At baseline.
   4. Anemia:  hct 23 today, willl t/f 1 u pRBCs
   5. DM:  Switched to NPH as he tended to be low in the mornings.  Will
   follow.
   6. Cholangiocarcinoma:  Unresectable but no evidence of distant
   spread.  Has biliary drain in place for imaging needs in future.
   Currently not an active issue.
   Family updated.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2138-11-4**] 06:00 PM
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: DNI (do not intubate)
   Disposition :
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined the patient, and was present for the key portions of
   the services provided. I agree with the note above, including the
   assessment and plan. In addition, I would add/emphasize: 79 y/o M w/ILD
   on prednisone, diastolic CHF, recent NSTEMI, unresectable
   cholangiocarcinoma, admitted with hypoxemic respiratory failure.
   Overnight episode of hypoxemia as noted above, has improved but inc
   FiO2 requirement.
   On exam:
   Tmax: 36.4
C (97.6
   Tcurrent: 35.9
C (96.7
   HR: 68 (59 - 89) bpm
   BP: 127/58(75) {113/55(59) - 151/76(91)} mmHg
   RR: 24 (17 - 32) insp/min
   SpO2: 89%
   awake, alert, oriented x 3. breathing appears more uncomfortable today
   Lungs: rales diffusely
   Cardiac: RRR, no m/g/r
   Abd: soft, NT, ND, +BS
   Extr: Warm, no c/c/e
   AP/ 79 y/o M w/ILD on prednisone, diastolic CHF, recent NSTEMI,
   unresectable cholangiocarcinoma, admitted with hypoxemic respiratory
   failure. ILD
 IPF v NSIP
 cont gradual worsening this week despite
   pulse solumedrol, course of abx.  Cont aspiration precautions.
   Regarding CHF agree w/ gentle diuresis to optimize resp status.
   Remainder of plan as above.
   Pt is critically ill.
   Time spent on care 30min.
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Last Name (NamePattern1) 509**], MD
   on:[**2138-11-9**] 19:23 ------

2138-11-10 07:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Started morphine, low dose for dyspnea and discomfort. He reported
   some symptomatic relief.
   - Patient was transfused one unit of packed red blood cells
   - Patient continued on non-rebreather all of yesterday, oxygen
   saturations mainly 88-90% at best.
   This morning patient relates he feels slightly short of breath. He
   reports the morphine helped a lot with his shortness of breath and
   helped him feel more comfortable and fall asleep. He continues to have
   a non-productive cough. No chest pain or other discomfort. He reports
   he had [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 3007**]
s iced coffee yesterday which was somewhat enjoyable.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2138-11-9**] 12:11 AM
   Vancomycin - [**2138-11-9**] 08:00 AM
   Bactrim (SMX/TMP) - [**2138-11-9**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2138-11-9**] 04:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-11-9**] 08:00 AM
   Furosemide (Lasix) - [**2138-11-9**] 03:00 PM
   Heparin Sodium (Prophylaxis) - [**2138-11-9**] 04:00 PM
   Other medications:
   Morphine 0.5 mg IV Q2H PRN, Mucomist, Prednisone 60 mg, Insulin NPH [**Hospital1 **]
   and sliding scale, Bactrim DS 2 tabs [**Hospital1 **], Tylenol PRN, Plavix 75 mg,
   Senna, Simvastatin 80 mg, Nitroglycerin PRN, Heparin SQ TID,
   Atrovent/Albuterol Nebs, Ursodiol 300 mg TID, Pantoprazole 40 mg,
   Multivitamin tab daily, ASA 325 mg daily
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   NOne
   Flowsheet Data as of  [**2138-11-10**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 60 (54 - 69) bpm
   BP: 127/57(72) {99/48(63) - 138/75(85)} mmHg
   RR: 19 (16 - 28) insp/min
   SpO2: 87%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,792 mL
                                                                    278 mL
   PO:
                                                                    275 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  1,240 mL
                                                                     78 mL
   Blood products:
                                                                    277 mL
   Total out:
                                                                  1,785 mL
                                                                    440 mL
   Urine:
                                                                  1,785 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      7 mL
                                                                   -162 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather plus 10 L NC
   SpO2: 87%
   ABG: ///29/
   Physical Examination
   General: Awake, alert, breathing appears more uncomfortable today then
   previous with some accessory muscle use
   Lungs: Dry rales throughout all lung fields. Flat JVP
   Cardiac: RRR, no m/g/r
   Abd: soft, NT, ND, +BS
   Extr: Warm, no clubbing, cyanosis, or edema
   Neuro: A&Ox3
   Labs / Radiology
   307 K/uL
   9.4 g/dL
   67 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.7 mEq/L
   31 mg/dL
   101 mEq/L
   136 mEq/L
   26.4 %
   14.0 K/uL
        [image002.jpg]
                             [**2138-11-4**]  06:30 PM
                             [**2138-11-5**]  03:23 AM
                             [**2138-11-5**]  05:56 AM
                             [**2138-11-5**]  03:38 PM
                             [**2138-11-6**]  05:06 AM
                             [**2138-11-7**]  04:00 AM
                             [**2138-11-8**]  04:28 AM
                             [**2138-11-8**]  06:17 PM
                             [**2138-11-9**]  04:30 AM
                             [**2138-11-10**]  03:58 AM
   WBC
   11.3
   12.9
   13.9
   13.1
   9.6
   13.6
   10.7
   14.0
   Hct
   24.7
   21.9
   22.5
   23.0
   24.7
   23.6
   25.1
   23.1
   26.4
   Plt
   [**Telephone/Fax (3) **]46
   329
   375
   316
   307
   Cr
   1.2
   1.1
   1.1
   1.1
   1.0
   0.9
   TropT
   0.03
   0.01
   Glucose
   76
   63
   241
   184
   123
   67
   Other labs: PT / PTT / INR:14.0/24.8/1.2, CK / CKMB /
   Troponin-T:32//0.01, ALT / AST:12/34, Alk Phos / T Bili:115/0.2,
   Amylase / Lipase:48/28, Differential-Neuts:95.7 %, Lymph:1.9 %,
   Mono:2.0 %, Eos:0.1 %, D-dimer:2718 ng/mL, Fibrinogen:424 mg/dL, Lactic
   Acid:2.7 mmol/L, Albumin:3.1 g/dL, LDH:379 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.4 mg/dL
   Microbiology: no new culture data
   Assessment and Plan
   Mr. [**Known lastname **] is a 79 yo M with PMH DM2, interstitial lung disease,
   diastolic CHF, CAD s/p NSTEMI with recent diagnosis of unresectable
   cholangiocarcinoma s/p CBD excision, cholecystectomy, lymph node bx,
   PTC placement and Roux-en-Y hepaticojejunostomy, with no further
   surgical management, who remains in the MICU with worsening hypoxia
   presumably from his pulmonary fibrosis.
   Hypoxia: Patient has not improved with pulse dose steroids for IPF,
   antibiotics for hospital-acquired pneumonia, and treatment for PCP, [**Name10 (NameIs) **]
   well as some diuresis. Overall picture still most consistent with
   exacerbation of his pulmonary fibrosis, less likely atypical infection
   or CHF.
   - Patient s/p 7 days of levofloxacin (day 1 = [**2138-10-27**])
   - PCP negative in sputum x1, but poor sputum samples, however continue
   3 weeks of empiric PCP [**Name Initial (PRE) **]:
          - On [**11-3**], started steroids. [**11-6**], s/p 3 days of
   methylprednisolone 250 mg IV QID. Started 60 mg PO prednisone daily
   [**11-9**].
          - Bactrim PO (day 1 = [**11-3**]), today is day 8
   - s/p vancomycin and zosyn for hospital acquired PNA (day 1 = [**11-3**]),
   completed yesterday.
   - Continue with nebulizer tx as needed
   - Too tenuous for bronchoscopy
   - PRN 0.5mg IV morphine for worsening dypsnea to make patient more
   comfortable.
   - Do not suspect CHF, however continuing to aim for net negative
   balance in event this is playing a role.
   - Inhaled mucomist for tx of fibrosis, D-dimer elevated, but no heparin
   given risks appear to outweight benefits upon discussion with team.
   - Discussed aspiration precautions with patient, nursing
   - Family called in today to discuss declining status, further clarify
   code status given he currently is DNI but desires resuscitation.
   Anemia: Stable, status post 1 unit of PRBCs. No reported bloody stool
   or emesis. Maybe hemolysis, bactrim related marrow [**Last Name (LF) 5587**], [**First Name3 (LF) **] be
   cancer related. No evidence of active bleeding.
   - Monitoring stool guaiac (negative thus far)
   - Hemolysis labs have not been consistent with hemolysis
   - Transfused 1 unit [**11-10**] for anemia and hypoxia
   Hypotension:  Resolved. Hypotension in past has been in setting of
   diuresis. AM cortisol was 24.5 on [**11-2**], on steroids [**Hospital1 **] for above
   reasons.
   - Holding lisinopril and BB given borderline pressures.
   Cholangio CA, biliary stricture:  No changes in management. Curative
   surgery not possible, reconstruction with roux-en-y hepaticojejunostomy
   performed in [**2138-9-12**].
   - Outpatient follow up if respiratory status improves, no current
   management concerns.
   CAD/NSTEMI: NSTEMI at OSH with troponin peak at 0.76 on [**10-27**], prior ECG
   changes with diffuse precordial T wave inversion, now improved.
   - Cardiology input appreciated: recommended medical management (ASA,
   low-dose B-Blocker if BP tolerates, Statin, Plavix, holding ACEi given
   ARF, hypotension) . Holding BB in setting of hypoxia to improve HR and
   oxygen delivery.
   Acute diastolic CHF: Potentially NSTEMI precipitated or infection, now
   likely clinically euvolemic. No RV pathology in recent ECHO.
   - Goal net negative today given want to try to maximize all potential
   factors.
   Heterogeneous thyroid on CT scan: Consider ultrasound to further
   characterize as outpatient if desired.
   - TSH 0.51 on [**11-1**]
   DM2: Was switched to NPH and regular given lower FSBG. Will continue to
   monitor trend and adjust as needed. Holding NPH given poor PO intake.
   FEN: Cardiac, diabetic diet. Will replete electrolytes as needed.
   Currently with poor PO intake, but holding off on tube feeds given
   overall prognosis
if patient and family desire more aggressive care,
   will discuss NG placement and tube feeds today.
   Communication: Wife, [**Name (NI) 2856**] [**Telephone/Fax (1) 5547**], and son [**Name (NI) 2667**] [**Name (NI) **]
   [**Telephone/Fax (1) 5548**]
   ICU Care
   Nutrition:
   Diet as tolerated with aspiration precautions.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2138-11-4**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  PPI
   VAP:  N/A
   Comments:
   Communication: Family meeting for todayComments:
   Code status: DNI (do not intubate),will further discuss code status
   today.
   Disposition:ICU

2138-11-11 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -          Family at bedside, pt made DNR/DNI
   -          PO meds discontinued due to discomfort taking them
   -          Episodes of dyspnea with desats to 70s, resolved without
   intervention, currently remains on NRB
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2138-11-9**] 12:11 AM
   Bactrim (SMX/TMP) - [**2138-11-9**] 08:00 AM
   Vancomycin - [**2138-11-9**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2138-11-10**] 09:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-11**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 84 (64 - 94) bpm
   BP: 136/63(80) {101/50(63) - 143/73(90)} mmHg
   RR: 24 (20 - 32) insp/min
   SpO2: 80%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                    740 mL
                                                                     71 mL
   PO:
                                                                    400 mL
             TF:
   IVF:
                                                                    340 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                  1,240 mL
                                                                    260 mL
   Urine:
                                                                  1,240 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -500 mL
                                                                   -189 mL
   Respiratory support
   SpO2: 80%
   ABG: ////
   Physical Examination
   Gen: On NRB, tachypneic, speaking in short sentences,
   HEENT: Anicetric
   Lungs: Diffuse dry crackles bilaterally
   Heart: s1s2 RRR
   Abd: Soft, NT/ND
   Ext: WD/WP
   Neuro: [**Last Name (LF) 1783**], [**First Name3 (LF) **]
   Labs / Radiology
   307 K/uL
   9.4 g/dL
   67 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.7 mEq/L
   31 mg/dL
   101 mEq/L
   136 mEq/L
   26.4 %
   14.0 K/uL
        [image002.jpg]
                             [**2138-11-4**]  06:30 PM
                             [**2138-11-5**]  03:23 AM
                             [**2138-11-5**]  05:56 AM
                             [**2138-11-5**]  03:38 PM
                             [**2138-11-6**]  05:06 AM
                             [**2138-11-7**]  04:00 AM
                             [**2138-11-8**]  04:28 AM
                             [**2138-11-8**]  06:17 PM
                             [**2138-11-9**]  04:30 AM
                             [**2138-11-10**]  03:58 AM
   WBC
   11.3
   12.9
   13.9
   13.1
   9.6
   13.6
   10.7
   14.0
   Hct
   24.7
   21.9
   22.5
   23.0
   24.7
   23.6
   25.1
   23.1
   26.4
   Plt
   [**Telephone/Fax (3) **]46
   329
   375
   316
   307
   Cr
   1.2
   1.1
   1.1
   1.1
   1.0
   0.9
   TropT
   0.03
   0.01
   Glucose
   76
   63
   241
   184
   123
   67
   Other labs: PT / PTT / INR:14.0/24.8/1.2, CK / CKMB /
   Troponin-T:32//0.01, ALT / AST:12/34, Alk Phos / T Bili:115/0.2,
   Amylase / Lipase:48/28, Differential-Neuts:95.7 %, Lymph:1.9 %,
   Mono:2.0 %, Eos:0.1 %, D-dimer:2718 ng/mL, Fibrinogen:424 mg/dL, Lactic
   Acid:2.7 mmol/L, Albumin:3.1 g/dL, LDH:379 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.4 mg/dL
   Micro: No new data
   Assessment and Plan
   Assessment and Plan
   Mr. [**Known lastname **] is a 79 yo M with PMH DM2, interstitial lung disease,
   diastolic CHF, CAD s/p NSTEMI with recent diagnosis of unresectable
   cholangiocarcinoma s/p CBD excision, cholecystectomy, lymph node bx,
   PTC placement and Roux-en-Y hepaticojejunostomy, with no further
   surgical management, who remains in the MICU with worsening hypoxia
   presumably from his pulmonary fibrosis.
   Hypoxia: Patient has not improved with pulse dose steroids for IPF,
   antibiotics for hospital-acquired pneumonia, and treatment for PCP, [**Name10 (NameIs) **]
   well as some diuresis. Overall picture still most consistent with
   exacerbation of his pulmonary fibrosis, less likely atypical infection
   or CHF. Given grim clinical prognosis and current decline, moving
   toward comfort care.
   - Patient s/p 7 days of levofloxacin (day 1 = [**2138-10-27**])
   - PCP negative in sputum x1, but poor sputum samples, however continue
   3 weeks of empiric PCP [**Name Initial (PRE) **]:
          - On [**11-3**], started steroids. [**11-6**], s/p 3 days of
   methylprednisolone 250 mg IV QID. Started 60 mg PO prednisone daily
   [**11-9**].
          - Bactrim PO (day 1 = [**11-3**]), now all abx stopped as never had
   any clinical improvement with tx
   - s/p vancomycin and zosyn for hospital acquired PNA (day 1 = [**11-3**]),
   completed.
   - Continue with nebulizer tx as needed
   - Too tenuous for bronchoscopy
   - PRN 0.5mg IV morphine for worsening dypsnea to make patient more
   comfortable.
   - Do not suspect CHF, however continuing to aim for net negative
   balance in event this is playing a role.
   - Inhaled mucomist for tx of fibrosis, D-dimer elevated, but no heparin
   given risks appear to outweight benefits upon discussion with team.
   - Discussed aspiration precautions with patient, nursing
   - Family called in to discuss declining status, confirmed DNR/DNI.
   Anemia: Stable, status post 1 unit of PRBCs. No reported bloody stool
   or emesis. Maybe hemolysis, bactrim related marrow [**Last Name (LF) 5587**], [**First Name3 (LF) **] be
   cancer related. No evidence of active bleeding.
   - Monitoring stool guaiac (negative thus far)
   - Hemolysis labs have not been consistent with hemolysis
   - Transfused 1 unit [**11-10**] for anemia and hypoxia
   Hypotension:  Resolved. Hypotension in past has been in setting of
   diuresis. AM cortisol was 24.5 on [**11-2**], on steroids [**Hospital1 **] for above
   reasons.
   - Holding lisinopril and BB given borderline pressures.
   Cholangio CA, biliary stricture:  No changes in management. Curative
   surgery not possible, reconstruction with roux-en-y hepaticojejunostomy
   performed in [**2138-9-12**].
   - Outpatient follow up if respiratory status improves, no current
   management concerns.
   CAD/NSTEMI: NSTEMI at OSH with troponin peak at 0.76 on [**10-27**], prior ECG
   changes with diffuse precordial T wave inversion, now improved.
   - Cardiology input appreciated: recommended medical management (ASA,
   low-dose B-Blocker if BP tolerates, Statin, Plavix, holding ACEi given
   ARF, hypotension) . Holding BB in setting of hypoxia to improve HR and
   oxygen delivery.
   Acute diastolic CHF: Potentially NSTEMI precipitated or infection, now
   likely clinically euvolemic. No RV pathology in recent ECHO.
   - Goal net negative.
   Heterogeneous thyroid on CT scan: Consider ultrasound to further
   characterize as outpatient if desired.
   - TSH 0.51 on [**11-1**]
   DM2: Was switched to NPH and regular given lower FSBG. Will continue to
   monitor trend and adjust as needed. Holding NPH given poor PO intake.
   FEN: Cardiac, diabetic diet. Will replete electrolytes as needed.
   Currently with poor PO intake, but holding off on tube feeds given
   overall prognosis
if patient and family desire more aggressive care,
   will discuss NG placement and tube feeds today.
   Communication: Wife, [**Name (NI) 2856**] [**Telephone/Fax (1) 5547**], and son [**Name (NI) 2667**] [**Name (NI) **]
   [**Telephone/Fax (1) 5548**]
   ICU Care
   Nutrition:
   Diet as tolerated with aspiration precautions.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2138-11-4**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  PPI
   VAP:  N/A
   Comments:
   Communication: with pt, family
   Code status: DNR/DNI.
   Disposition: ICU for intensive respiratory care, consider floor if CMO

2138-11-12 08:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2138-11-9**] 08:00 AM
   Bactrim (SMX/TMP) - [**2138-11-9**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2138-11-10**] 09:00 AM
   Infusions:
   Morphine Sulfate - 1 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-12**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 95 (82 - 102) bpm
   BP: 146/72(89) {121/52(70) - 147/72(89)} mmHg
   RR: 18 (17 - 33) insp/min
   SpO2: 82%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                    246 mL
                                                                     84 mL
   PO:
             TF:
   IVF:
                                                                    246 mL
                                                                     84 mL
   Blood products:
   Total out:
                                                                  1,480 mL
                                                                    420 mL
   Urine:
                                                                  1,480 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,234 mL
                                                                   -336 mL
   Respiratory support
   SpO2: 82%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   307 K/uL
   9.4 g/dL
   67 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.7 mEq/L
   31 mg/dL
   101 mEq/L
   136 mEq/L
   26.4 %
   14.0 K/uL
        [image002.jpg]
                             [**2138-11-4**]  06:30 PM
                             [**2138-11-5**]  03:23 AM
                             [**2138-11-5**]  05:56 AM
                             [**2138-11-5**]  03:38 PM
                             [**2138-11-6**]  05:06 AM
                             [**2138-11-7**]  04:00 AM
                             [**2138-11-8**]  04:28 AM
                             [**2138-11-8**]  06:17 PM
                             [**2138-11-9**]  04:30 AM
                             [**2138-11-10**]  03:58 AM
   WBC
   11.3
   12.9
   13.9
   13.1
   9.6
   13.6
   10.7
   14.0
   Hct
   24.7
   21.9
   22.5
   23.0
   24.7
   23.6
   25.1
   23.1
   26.4
   Plt
   [**Telephone/Fax (3) **]46
   329
   375
   316
   307
   Cr
   1.2
   1.1
   1.1
   1.1
   1.0
   0.9
   TropT
   0.03
   0.01
   Glucose
   76
   63
   241
   184
   123
   67
   Other labs: PT / PTT / INR:14.0/24.8/1.2, CK / CKMB /
   Troponin-T:32//0.01, ALT / AST:12/34, Alk Phos / T Bili:115/0.2,
   Amylase / Lipase:48/28, Differential-Neuts:95.7 %, Lymph:1.9 %,
   Mono:2.0 %, Eos:0.1 %, D-dimer:2718 ng/mL, Fibrinogen:424 mg/dL, Lactic
   Acid:2.7 mmol/L, Albumin:3.1 g/dL, LDH:379 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2138-11-4**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNI (do not intubate)
   Disposition: